US05985281
D253K HCPB (4 μg/ml for Hipp-Asp and 0.5 μg/ml for Hipp-Glu) was added to these substrates (500 μl reaction volume) to start the reaction. Samples were incubated for 5 h at 37° C. Reactions were terminated by the addition of 500 μl methanol/distilled water (80/20) containing 0.2% TFA. The amount of hippuric acid produced was quantified by HPLC as described in Example 20.

reactant | Hipp Asp | COC1CCC23CCN(C2C1)CC4=CC(=C(C(=C34)O)OC)OC.N[C@@H](CC(O)=O)C(=O)O
reactant | Hipp Glu | COC1CCC23CCN(C2C1)CC4=CC(=C(C(=C34)O)OC)OC.N[C@@H](CCC(O)=O)C(=O)O
product | hippuric acid | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
